US06008361
N-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-acetamide
Trifluoroacetic anhydride (4.20 g, 20 mmol) was added dropwise to a mixture of 3.46 g (20 mmol) of 2-amino-5-bromopyridine and 8.30 g (60 mmol) of powdered potassium carbonate in 25 mL of dichloromethane with stirring at about 0° C. After about 2 hours, the mixture was filtered, concentrated, and chromatographed (silica gel, 2:1 ethyl acetate-hexanes) to afford after concentration 1.50 g of the title product as white crystals, mp 70-72° C. (recrystallization solvent=2-propanol). 1H nmr (deuteriochloroform): δ=8.60 (br, 1 H), 8.39 (d, 1 H), 8.09 (d, 1 H), 7.88 (d of d, 1 H); ms (NH3Cl): m/z=269, 271 (MH+).

reactant | Trifluoroacetic anhydride | 20 mmol, 4.20 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-amino-5-bromopyridine | 20 mmol, 3.46 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | potassium carbonate | 60 mmol, 8.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-acetamide | BrC=1C=CC(=NC1)NC(C(F)(F)F)=O | C7H4BrF3N2O
